US08466282B2
Methyl 1-(2-phenylethyl)-1H-indole-2-carboxylate
Methyl 1H-indole-2-carboxylate (526 mg) and (2-bromoethyl)benzene (1.11 g) were dissolved in DMA (15 ml), cesium carbonate (2.93 g) was added, and the mixture was stirred at 60° C. for 15 hr. The reaction mixture was concentrated, and the residue was diluted with aqueous sodium bicarbonate, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over anhydrous magnesium sulfate, and concentrated. The residue was subjected to silica gel column chromatography, and a fraction eluted with ethyl acetate-hexane (3:7) was concentrated under reduced pressure to give the object product (318 mg) as an oil.

reactant | Methyl 1H-indole-2-carboxylate | 526 mg | N1C(=CC2=CC=CC=C12)C(=O)OC | C10H9NO2
reactant | (2-bromoethyl)benzene | 1.11 g | BrCCC1=CC=CC=C1 | C8H9Br
reactant | cesium carbonate | 2.93 g | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | DMA | 15 ml | CC(=O)N(C)C | C4H9NO
product | Methyl 1-(2-phenylethyl)-1H-indole-2-carboxylate | 318 mg | C1(=CC=CC=C1)CCN1C(=CC2=CC=CC=C12)C(=O)OC | C18H17NO2
